US03989857
A mixture of isophorone (13.82 g; 0.1 Mole) and N-bromo-succinimide (17.80 g; 0.1 Mole) in the presence of traces of α,α'-azodiisobutyronitrile was refluxed in 500 ml of CCl4 during 15 minutes. 500 ml of petrol-ether (30°-50° C) were then added to the cool reaction mixture and the succinimide thus precipitated was filtered off. By evaporating the volatile components of the clear filtrate, crude 3,5,5-trimethyl-4-bromo-cyclohex-2-en-1-one was obtained.

reactant | isophorone | 0.1 Mole, 13.82 g | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | N-bromo-succinimide | 0.1 Mole, 17.80 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | α,α'-azodiisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3,5,5-trimethyl-4-bromo-cyclohex-2-en-1-one | CC1=CC(CC(C1Br)(C)C)=O | C9H13BrO
